US08008317B2
A solution of 1-(4-bromophenyl)-2-phenylethanone (5.0 g, 18 mmol), ethylene glycol (3.0 mL, 54 mmol) and tosic acid (0.04 g, 0.2 mmol) in toluene (30 mL) was heated to reflux with a Dean-Stark trap for 15 hours. The reaction was cooled to room temperature, diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated to give crude 2-benzyl-2-(4-bromophenyl)-1,3-dioxolane as a white solid. To the crude material was added zinc cyanide (2.3 g, 20 mmol), tetrakis(triphenylphosphine)palladium (3.3 g, 2.8 mmol), DMF (20 mL) and dioxane (20 mL) and the resulting suspension was purged with nitrogen for 15 minutes prior to being heated 100° C. for 15 hours. The reaction was cooled to room temperature, poured into ether and filtered. The organic filtrate was washed with water, saturated bicarbonate, brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (1% ethyl acetate/hexane→50% ethyl acetate/hexane) gave the title compound as white solid. MS (M+H+): calculated=265.31, observed=266.1.

reactant | 1-(4-bromophenyl)-2-phenylethanone | 18 mmol, 5.0 g | BrC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C14H11BrO
reactant | ethylene glycol | 54 mmol, 3.0 mL | C(CO)O | C2H6O2
reactant | tosic acid | 0.2 mmol, 0.04 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-2-(4-bromophenyl)-1,3-dioxolane | C(C1=CC=CC=C1)C1(OCCO1)C1=CC=C(C=C1)Br | C16H15BrO2
